US07262212B2
A mixture of tert-butyl 4-(4-acetoxybenzoyl)piperazine-1-carboxylate (18.5 g, 53.1 mmol) prepared in Reference Example 195 and potassium carbonate (370 mg, 2.65 mmol) in methanol (200 ml) was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, 5% hydrochloric acid and methylene chloride were added to the residue, and the mixture was vigorously stirred. The resulting precipitates were collected by filtration, and washed with water and methylene chloride, and then dried in vacuo to afford tert-butyl 4-(4-hydroxybenzoyl)piperazine-1-carboxylate (14.9 g, yield 92%) as a white powder.

reactant | tert-butyl 4-(4-acetoxybenzoyl)piperazine-1-carboxylate | 53.1 mmol, 18.5 g | C(C)(=O)OC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H24N2O5
reactant | potassium carbonate | 2.65 mmol, 370 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | tert-butyl 4-(4-hydroxybenzoyl)piperazine-1-carboxylate | 14.9 g, yield 92% | OC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H22N2O4
